US05883092
Synthesis of N-(1-phenylethyl)-[6-(4-t-butylphenylsulfonylamino)-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyloxy]-acetamide
N-(1-Phenylethyl)-hydroxyacetamide (50 mg, 0.3 mmol) was dissolved in dimethyl sulfoxide (0.56 ml). Sodium (11.5 mg; 0.5 mmol) was added to the solution, and the resultant mixture was stirred at room temperature for two hours. 4-t-Butyl-N-[6-chloro-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide (56 mg; 0.1 mmol) was added thereto, and the resultant mixture was stirred for 1 hour at 120° C., then poured into water, made acidic with hydrochloric acid, and extracted with ethyl acetate. The extracted was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1), to thereby obtain 23.8 mg (yield: 34%) of the title compound as a pale yellow oil.

reactant | N-(1-Phenylethyl)-hydroxyacetamide | 0.3 mmol, 50 mg | C1(=CC=CC=C1)C(C)NC(CO)=O | C10H13NO2
reactant | Sodium | 0.5 mmol, 11.5 mg | [Na] | Na
reactant | 4-t-Butyl-N-[6-chloro-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | 0.1 mmol, 56 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)N1CCN(CC1)C=O | C26H30ClN5O5S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 0.56 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(1-phenylethyl)-[6-(4-t-butylphenylsulfonylamino)-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyloxy]-acetamide | 23.8 mg, yield: 34% | C1(=CC=CC=C1)C(C)NC(COC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)N1CCN(CC1)C=O)=O | C36H42N6O7S
